US08372981B2
N-(4-(6-Cyano-7-((2R)-oxiran-2-yl)methoxyquinolin-4-yloxy}-2,3-dimethylphenyl)-N′-cyclopropylurea
Dimethylformamide (4 ml) was added to N-(2,3-dimethyl-4-(6-cyano-7-hydroxy-quinolin-4-yloxy)-phenyl)-N′-cyclopropylurea (476 mg), and then p-toluenesulfonic acid (2R)-glycidyl ester (365 mg) and potassium carbonate (340 mg) were further added and the mixture was heated at 50° C. for 4 hours. Water was added to the reaction solution, extraction was performed with ethyl acetate, the organic layer was washed with water and saturated saline in that order and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained crude product was washed with ethyl acetate to obtain the title compound (270 mg) as light yellow crystals.

reactant | Dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | N-(2,3-dimethyl-4-(6-cyano-7-hydroxy-quinolin-4-yloxy)-phenyl)-N′-cyclopropylurea | 476 mg | CC1=C(C=CC(=C1C)OC1=CC=NC2=CC(=C(C=C12)C#N)O)NC(=O)NC1CC1 | C22H20N4O3
reactant | potassium carbonate | 340 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(6-Cyano-7-((2R)-oxiran-2-yl)methoxyquinolin-4-yloxy}-2,3-dimethylphenyl)-N′-cyclopropylurea | 270 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC[C@@H]1OC1)OC1=C(C(=C(C=C1)NC(=O)NC1CC1)C)C | C25H24N4O4
